US07008957B2
9f) Methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-6-hydroxymethyl-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate
337 mg of methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-6-(tert-butyldimethylsilanyloxymethyl)-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate were dissolved in 10 ml of THF and cooled to 0° C. A 1 M solution of tetrabutylammonium fluoride was added dropwise, and the mixture was allowed to reach room temperature within 2 h. It was then partitioned between 120 ml of saturated ammonium chloride solution and 120 ml of ethyl acetate. The aqueous phase was extracted twice with 40 ml of ethyl acetate each time. The combined organic phases were washed once with 80 ml of saturated sodium chloride solution and dried with MgSO4. The solvents were removed in vacuo, and the residue was purified by chromatography on silica gel.

reactant | methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-6-(tert-butyldimethylsilanyloxymethyl)-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate | 337 mg | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)CO[Si](C)(C)C(C)(C)C | C20H36N2O6SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-6-hydroxymethyl-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)CO | C14H22N2O6S
